US08859108B2
(i) 2-[4-(9-anthryl)phenyl]benzoxazole
In a 200 mL three-neck flask, 3.7 g (15 mmol) of 4-(benzoxazol-2-yl)phenylboronic acid, 3.9 g (15 mmol) of 9-bromoanthracene, 3.3 g (31 mmol) of sodium carbonate, 60 mL of toluene, 15 mL of ethanol, and 15 mL of water were placed. The mixture was degassed by being stirred under reduced pressure, and the air in the flask was replaced with nitrogen. To the mixture, 0.16 g (0.14 mmol) of tetrakis(triphenylphosphine)palladium(0) was added, and the mixture was stirred under nitrogen stream at 110° C. for 6 hours. After a certain period, water was added to the mixture, and an aqueous layer was extracted with toluene. The obtained extracted solution and the organic layer were combined and washed with saturated saline, and the organic layer was dried with magnesium sulfate. The obtained mixture was gravity filtered, and the filtrate was condensed to give a solid. A toluene solution of the solid was subjected to suction filtration through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), and the filtrate was condensed. The solid was recrystallized with ethyl acetate/hexane, so that 3.3 g of target yellow powder was obtained in a yield of 57%.

reactant | 4-(benzoxazol-2-yl)phenylboronic acid | 15 mmol, 3.7 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)B(O)O | C13H10BNO3
reactant | 9-bromoanthracene | 15 mmol, 3.9 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | sodium carbonate | 31 mmol, 3.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 15 mL | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-[4-(9-anthryl)phenyl]benzoxazole | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C27H17NO
